US04292071
SYNTHESIS OF METHYL HYDROGEN PHTHALATE
Methanol (300 ml) was added in a single portion to 148 g (1.00 mole) of phthalic anhydride and the resulting suspension was stirred and heated at reflux for 36 hours; solution occurred during heating. The solvent was removed and the product was recrystallized from a mixture of ethyl acetate and hexane to afford 114.6 g of the title compound (Lit.: Beilstein, 9,797--mp 82.5°, 84°).

reactant | phthalic anhydride | 1.00 mole, 148 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | Methanol | 300 ml | CO | CH4O
product | METHYL HYDROGEN PHTHALATE | 114.6 g | C(C=1C(C(=O)O)=CC=CC1)(=O)OC | C9H8O4
